US05656662
(S)-3,4-Dihydroxy-5-octadecyl-2(5H)-furanone.
To a 250 mL hydrogenation bottle was added 0.02 g of 10% palladium on carbon in 5 mL methanol. To this suspension was added 0.1 g (0,219 mmol) of (S)-3-benzyloxy-4-hydroxy-5-[(Z)-3-octadecenyl]-2(5H)-furanone dissolved in 15 mL methanol. Hydrogenation was initiated at 40 psi and at room temperature. The reaction was monitored for completion by TLC (approximately 5-6 hours), filtered (Celite) and evaporated under reduced pressure. The residue was purified over silica gel using 10% methanol in chloroform as eluant to generate 58 mg (72%) of white solid: mp 110°-112° C.; [α]D25 -6.8° (c=0.3, CH3OH); IR (Kbr, cm-1) 3380 (br), 2917, 2848, 1741, 1668; 1H NMR (CD3COCD3) δ 4.67 (dd, J=3.5, 7.3 Hz, 1H), 2.01-1.88 (m, 1H), 1.57-1.47 (m, 1H), 1.42-1.23 (m, 322), 0.87 (t, J=6.8 Hz, 3H); HRMS calculated for C22H40O4 (M+), 368.2927, found 368.2928; analysis calculated for C22H40O4 +0.5 H2O: C, 69.99; H, 10.95; Found: C, 70.27; H, 11.22.

reactant | (S)-3-benzyloxy-4-hydroxy-5-[(Z)-3-octadecenyl]-2(5H)-furanone | 0,219 mmol, 0.1 g | C(C1=CC=CC=C1)OC=1C(O[C@H](C1O)CC\C=C/CCCCCCCCCCCCCC)=O | C29H44O4
catalyst | palladium on carbon | 0.02 g | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 15 mL | CO | CH4O
product | (S)-3,4-Dihydroxy-5-octadecyl-2(5H)-furanone | OC=1C(O[C@H](C1O)CCCCCCCCCCCCCCCCCC)=O | C22H40O4
